Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.3505575027
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]#[C:10][H:11].[H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],-1.90908509412
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],5.20825137455
[H:1][C:2]#[C:3][C@@:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]1[C:3]2[C@@:4]1([C:5]([H:6])([H:7])[H:8])[C@@:9]2([H:10])[C:11]([H:12])[H:13],-1.91108812746
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:3],5.1530356599400005
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.43135790837
[H:1].[O:2]=[C:3]=[C:4]1[C:5][O:6][C:7]1([H:8])[H:9]>>[H:1][O:2]/[C:3]=[C:4]1/[C:5][O:6][C:7]1([H:8])[H:9],-0.806239736798
[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.31433692492
[O:1]=[C:2]1[C:3]([O:4][C:5][H:6])[C:7]1([H:8])[H:9]>>[O:1]=[C:2][C:7]([C:3][O:4][C:5][H:6])([H:8])[H:9],1.73441269337
[C:2][C:3]([H:4])([H:5])[O:6][H:7].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7],-8.0229376144
[C:1]/[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])[O:10][H:11],2.97197818652
[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.24366740682
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.58008157604
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.37687094756
[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-4.87812273132
[H:9].[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.3081277126699975
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.805792219630002
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],4.5139471468800005
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])[H:10],4.31907560505
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8].[H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8][H:9],-4.53146733708
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9][O:10][H:11].[H:6],2.85229312357
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:8]([H:9])([H:10])[H:11],5.06227361041
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],4.30318257211
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.6678401920200003
[C:7]([H:8])([H:9])[H:13].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:10]([H:11])[H:12]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.45626099896
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.1986093477700002
[C:6]=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-4.63221749938
[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2][C:3]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.1008276209300005
